US08580812B2
I. {4-[(Adamantan-1-ylmethyl)carbamoyl]pyrazolo[1,5-a]pyridin-2-ylmethoxy}acetic acid (Compound 9)
3 M Aq. KOH (50 μL) is added to a solution of {4-[(adamantan-1-ylmethyl)carbamoyl]-pyrazolo[1,5-a]pyridin-2-ylmethoxy}acetic acid ethyl ester (11 mg, 25 μmol) and EtOH (250 μL). After 18 h, the volatiles are removed under reduced pressure. The residue is diluted with H2O (0.3 mL) and then acidified with 1 M aq. HCl. The title compound is collected by filtration. 1H NMR (400 MHz, ((CD3)2SO) δ: 8.74 (d, 1H), 8.42 (bs, 1H), 7.62 (d, 1H), 6.93 (t, 1H), 6.84 (s, 1H), 4.70 (s, 2H), 4.08 (s, 2H), 2.99 (d, 2H), 1.86-2.00 (m, 3H), 1.48-1.73 (m, 12H). LC-MS m/z (M+H+): 398.3; RT=1.26.

reactant | KOH | 3 M, 50 μL | [OH-].[K+]
reactant | {4-[(adamantan-1-ylmethyl)carbamoyl]-pyrazolo[1,5-a]pyridin-2-ylmethoxy}acetic acid ethyl ester | 25 μmol, 11 mg | C(C)OC(COCC1=NN2C(C(=CC=C2)C(NCC23CC4CC(CC(C2)C4)C3)=O)=C1)=O | C24H31N3O4
solvent | EtOH | 250 μL | CCO | C2H6O
product | {4-[(Adamantan-1-ylmethyl)carbamoyl]pyrazolo[1,5-a]pyridin-2-ylmethoxy}acetic acid | C12(CC3CC(CC(C1)C3)C2)CNC(=O)C=2C=3N(C=CC2)N=C(C3)COCC(=O)O | C22H27N3O4
